US05763437
To a stirred solution of 4-tert-butylpyridine (19.0 g) in acetic acid (90 ml) was added dropwise 50% of hydrogen peroxide aqueous solution (20 ml) at room temperature and stirred for 30 minutes under the same condition. The mixture was stirred for 3 hours at ca.80° C. After cooling to room temperature, to the mixture was added dropwise another 20 ml of 50% hydrogen peroxide aqueous solution and stirred for 30 minutes. The mixture was stirred for 3 hours at ca. 80° C. After cooling to room temperature, the mixture was concentrated in vacuo. The residue was taken up with chloroform, and washed with water (50 ml), saturated sodium carbonate aqueous solution (50 ml) and water (50 ml). The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to give 4-tert-butyl-1-oxypyridine, which was crystallized by isopropyl ether as a colorless powder (19.1 g).

reactant | 4-tert-butylpyridine | 19.0 g | C(C)(C)(C)C1=CC=NC=C1 | C9H13N
reactant | hydrogen peroxide | 20 ml | OO | H2O2
reactant | hydrogen peroxide | 20 ml | OO | H2O2
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 4-tert-butyl-1-oxypyridine | CC(C)(C)C1=CC=[N+](C=C1)[O-] | C9H13NO
